US09315475B2
Step 1: Preparation of Nα-(methoxycarbonyl)-β-phenyl-N-(2-{2-[(2R,5R)-5-(1H-1,2,3-triazol-1-ylmethyl)morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide
To a solution of Nα-(methoxycarbonyl)-β-phenyl-N-(2-{2-[(2R,5R)-5-{[4-(trimethylsilyl)-1H-1,2,3-triazol-1-yl]methyl}morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide (1 eq.) in tetrahydrofuran (0.03M) was added TBAF (2.7 eq.). The reaction mixture was then heated to 50° C. for 16 hrs. The reaction mixture was quenched with aqueous saturated sodium bicarbonate. The aqueous layer was extracted with CH2Cl2 and the combined organic layers were dried over Na2SO4, filtered and concentrated. The evaporation residue was purified by automated silica gel flash chromatography system eluted with a gradient 0% to 30% of MeOH/EtOAc.

reactant | Nα-(methoxycarbonyl)-β-phenyl-N-(2-{2-[(2R,5R)-5-{[4-(trimethylsilyl)-1H-1,2,3-triazol-1-yl]methyl}morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide | 1 eq. | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN[C@@H](CO1)CN1N=NC(=C1)[Si](C)(C)C | C35H44N6O4Si
reactant | TBAF | 2.7 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 0.03M | O1CCCC1 | C4H8O
product | Nα-(methoxycarbonyl)-β-phenyl-N-(2-{2-[(2R,5R)-5-(1H-1,2,3-triazol-1-ylmethyl)morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN[C@@H](CO1)CN1N=NC=C1 | C32H36N6O4
